US05688946
(S)-α-[[(Cyclopropylmethyl)sulphonyl]methyl]hydrocinnamic acid
This compound was prepared analogously to Example 1d) by the enzymatic hydrolysis of ethyl (RS)-α-[[(cyclopropylmethyl)sulphonyl]methyl]hydrocinnamate which, in turn, was prepared analogously to the synthesis of ethyl (RS)-α-[(tert-butylsulphonyl)methyl]hydrocinnamate described in EPA 0236734 by replacing tert-butylthiol by cyclopropylmethylthiol, MS: 282 (M)+.

reactant | ethyl (RS)-α-[[(cyclopropylmethyl)sulphonyl]methyl]hydrocinnamate | C1(CC1)CS(=O)(=O)CC(C(=O)OCC)CC1=CC=CC=C1 | C16H22O4S
reactant | ethyl (RS)-α-[(tert-butylsulphonyl)methyl]hydrocinnamate | C(C)(C)(C)S(=O)(=O)CC(C(=O)OCC)CC1=CC=CC=C1 | C16H24O4S
product | (S)-α-[[(Cyclopropylmethyl)sulphonyl]methyl]hydrocinnamic acid | C1(CC1)CS(=O)(=O)C[C@H](C(=O)O)CC1=CC=CC=C1 | C14H18O4S
